US04451479
3-Amino-1-(m-fluorophenyl)-2-pyrazoline
A 1.38 g. amount of sodium metal is dissolved in 150 ml. of absolute ethanol, then 8.1 g. of m-fluorophenylhydrazine hydrochloride is added followed in 15 minutes by 2.75 g. of acrylonitrile. The reaction mixture is refluxed for 5 hours, then is evaporated to dryness in vacuo. Water is added and the separated solid is collected by filtration. The solid is dissolved in dichloromethane and the solution is passed through a short column of a hydrous magnesium silicate. The effluent is heated to reflux on a steam bath and hexane is added to precipitate a product. The solid is collected, dissolved in acetone, treated with activated charcoal and filtered. Hexane is added to the filtrate to crystallize 2.95 g. of the product of the Example as off-white needles, m.p. 146°-147° C.

reactant | sodium | [Na] | Na
reactant | m-fluorophenylhydrazine hydrochloride | Cl.FC=1C=C(C=CC1)NN
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1-(m-fluorophenyl)-2-pyrazoline | NC1=NN(CC1)C1=CC(=CC=C1)F | C9H10FN3
